US07569600B2
Nitrogen was bubbled through a mixture of 2-triisopropylsilanyloxy-1-triisopropylsilanyloxymethyl-ethylamine (prepared from serinol using triisopropylsilyl chloride) (420 mg, 1.04 mmol) and 3-bromo-5-(4,4-dimethyl-cyclohex-1-enyl)-thiophene-2-carboxylic acid methyl ester (350 mg, 1.06 mmol) in dioxane (3.5 mL) containing CS2CO3 (1 g, 3.07 mmol) and Pd2(dba)3 (96 mg, 0.1 mmol) for 6 min. 2,2′-Bis(diphenylphosphino)-1,1′-binaphthyl (105 mg, 0.17 mmol) was added and the mixture was stirred at 80° C. for 24 h. It was diluted with DCM, filtered through celite and evaporated. 5-(4,4-Dimethyl-cyclohex-1-enyl)-3-(2-triisopropylsilanyloxy-1-triisopropylsilanyloxymethyl-ethylamino)-thiophene-2-carboxylic acid methyl ester was obtained by chromatography over silica gel (hexane:EtOAc—95:5) (500 mg, 72%).

reactant | 2-triisopropylsilanyloxy-1-triisopropylsilanyloxymethyl-ethylamine | 1.04 mmol, 420 mg | C(C)(C)[Si](OCC(CO[Si](C(C)C)(C(C)C)C(C)C)N)(C(C)C)C(C)C | C21H49NO2Si2
reactant | 3-bromo-5-(4,4-dimethyl-cyclohex-1-enyl)-thiophene-2-carboxylic acid methyl ester | 1.06 mmol, 350 mg | COC(=O)C=1SC(=CC1Br)C1=CCC(CC1)(C)C | C14H17BrO2S
reactant | 2,2′-Bis(diphenylphosphino)-1,1′-binaphthyl | 0.17 mmol, 105 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | dioxane | 3.5 mL | O1CCOCC1 | C4H8O2
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | Pd2(dba)3 | 0.1 mmol, 96 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-(4,4-Dimethyl-cyclohex-1-enyl)-3-(2-triisopropylsilanyloxy-1-triisopropylsilanyloxymethyl-ethylamino)-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=CC1NC(CO[Si](C(C)C)(C(C)C)C(C)C)CO[Si](C(C)C)(C(C)C)C(C)C)C1=CCC(CC1)(C)C | C35H65NO4SSi2
